US05763359
10. Preparation of 5-Chloro-1-ethyl-3-(trifluoromethyl)pyrazol-4-carboxamide
A mixture of 22.5 g (91.6 mmol) of 5-chloro-1-ethyl-3-(trifluoromethyl)pyrazole-4-carboxylic acid and 45 mL of thionyl chloride was prepared and heated to reflux with stirring for 3 hours. The slurry became a dark orange solution. The excess thionyl chloride and other volatiles were removed by evaporation under reduced pressure to obtain a dark brown oil. This was taken up in 250 mL of dichloromethane and the resulting solution was cooled to about 0° C. and treated with 100 mL of concentrated ammonium hydroxide, which was added dropwise with stirring and cooling. When the addition was complete, the mixture was allowed to warm to ambient temperature and stir over a 2-hour period. The solids were collected by filtration and washed with water (3×50 mL). The solids that formed in the filtrate due to evaporation of the dichloromethane were collected in the same way. The combined solids were washed with water (2×100 mL) and were then suspended in water for 2 hours, recollected by filtration, and dried in an oven under reduced pressure. The white solid obtained was 18.4 g of the title compound melting at 15°-152° C.

reactant | 5-chloro-1-ethyl-3-(trifluoromethyl)pyrazole-4-carboxylic acid | 91.6 mmol, 22.5 g | ClC1=C(C(=NN1CC)C(F)(F)F)C(=O)O | C7H6ClF3N2O2
reactant | thionyl chloride | 45 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 5-Chloro-1-ethyl-3-(trifluoromethyl)pyrazol-4-carboxamide | 18.4 g | ClC1=C(C(=NN1CC)C(F)(F)F)C(=O)N | C7H7ClF3N3O
